US09382188B2
A) ethyl 3-cyclopropyl-3-(3-(((5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)oxy)methyl)phenyl)propanoate
To a solution of 5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-ol (300 mg) in THF (20 mL) were added a solution of ethyl 3-cyclopropyl-3-(3-(hydroxymethyl)phenyl)propanoate (283 mg) in THF (5.0 mL), 1,1′-(azodicarbonyl)dipiperidine (523 mg) and tri-n-butylphosphine (420 mg) at 0° C., and the mixture was stirred at 0° C. for 5 min. The mixture was further stirred at room temperature for 16 hr, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (384 mg) as a colorless oil.

reactant | 5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-ol | 300 mg | FC1=C(C=C(C=C1)OC)C=1C=CC(=NC1CC(C)(C)C)O | C17H20FNO2
reactant | ethyl 3-cyclopropyl-3-(3-(hydroxymethyl)phenyl)propanoate | 283 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)CO | C15H20O3
reactant | 1,1′-(azodicarbonyl)dipiperidine | 523 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tri-n-butylphosphine | 420 mg | C(CCC)P(CCCC)CCCC | C12H27P
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | ethyl 3-cyclopropyl-3-(3-(((5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)oxy)methyl)phenyl)propanoate | 384 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)COC1=NC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C32H38FNO4
